datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n:10]c1C.O=C(c1cc2cc(Cn3cc[nH+]c3)ccc2o1)[O:21][H:20]>>Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n+:10]([H:20])c1C.O=C(c1cc2cc(Cn3cc[nH+]c3)ccc2o1)[O-:21] 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.CC1CCCC[N:10]1C>>C#C[C@]1(O)C[C@@H](C)[NH:21][C@@H]2CCCC[C@H]21.CC1CCCC[N+:10]1(C)[H:20] 10=20;20,21=21",
"C1CNC[NH:10]C1.CN(C)C(C)([OH2+])[O:21][H:20]>>C1CNC[NH+:10]([H:20])C1.CN(C)C(C)([OH2+])[O-:21] 10=20;20,21=21",
"C[Si](C)(C)OC1C[N:10](C2CCCCC2)C1.[NH3+]CCCCc1cccc[n+:21]1[H:20]>>C[Si](C)(C)OC1C[N+:10](C2CCCCC2)([H:20])C1.[NH3+]CCCCc1cccc[n:21]1 10=20;20,21=21",
"CCCC=C(C)C(=O)[O:21][H:20].Cc1nc(C)c(C)[n:10]c1C>>CCCC=C(C)C(=O)[O-:21].Cc1nc(C)c(C)[n+:10]([H:20])c1C 10=20;20,21=21",
"NCCC[NH:10]CCO.O=C(c1ccccc1-c1nnn[nH]1)[O:21][H:20]>>NCCC[NH+:10](CCO)[H:20].O=C(c1ccccc1-c1nnn[nH]1)[O-:21] 10=20;20,21=21",
"O/N=C/c1ccc([O-:10])cc1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O/N=C/c1ccc([O:10][H:20])cc1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)SCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)SCC[NH2+:10][H:20] 10=20;20,21=21",
"CC1NCCC[NH:10]1.Nc1nc([O:21][H:20])[nH+]c2nc[nH]c12>>CC1NCCC[NH+:10]1[H:20].Nc1nc([O-:21])[nH+]c2nc[nH]c12 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ccc(O)cn2)cc1.[O-]c1cc[n+:21]([H:20])c2cccnc12>>Nc1ccc(S(=O)(=O)[N:10](c2ccc(O)cn2)[H:20])cc1.[O-]c1cc[n:21]c2cccnc12 10=20;20,21=21",
"CCOC(=O)[N:21](c1nnc(-c2ccccc2)s1)[H:20].CCOc1c(C#N)c[n:10]c2ccccc12>>CCOC(=O)[N-:21]c1nnc(-c2ccccc2)s1.CCOc1c(C#N)c[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"COc1cc(N)c(C#N)c(N)[n+:21]1[H:20].N#CC(C#N)=N[N-:10]c1cccc(O)c1>>COc1cc(N)c(C#N)c(N)[n:21]1.N#CC(C#N)=N[N:10](c1cccc(O)c1)[H:20] 10=20;20,21=21",
"Nc1cc[n:10]c2ccc3ncccc3c12.O/C(c1ccccc1)=[O+:21]\[H:20]>>Nc1cc[n+:10]([H:20])c2ccc3ncccc3c12.OC(c1ccccc1)=[O:21] 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)NCc1ccccc1)[H:20].Nc1cc[n:10]c(-c2ccccn2)c1>>CC[N:21](CC)CC(=O)NCc1ccccc1.Nc1cc[n+:10]([H:20])c(-c2ccccn2)c1 10=20;20,21=21",
"COCCc1[nH]cc(C)[n+:21]1[H:20].O=C(c1ccccc1)c1ccccc1C(=O)[O-:10]>>COCCc1[nH]cc(C)[n:21]1.O=C(c1ccccc1)c1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"Nc1ccc2c[n+:21]([H:20])[nH]c2c1.O=C(c1cccc(Br)c1)[O-:10]>>Nc1ccc2c[n:21][nH]c2c1.O=C(c1cccc(Br)c1)[O:10][H:20] 10=20;20,21=21",
"CC(C)c1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1.CC[NH+](CC)CC(=O)[O-:10]>>CC(C)c1ccc(C(=O)/C=C/C(=O)[O-:21])cc1.CC[NH+](CC)CC(=O)[O:10][H:20] 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]c[nH+]1)NC(=O)c1cccc(C[NH:10]CC[NH3+])n1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCNC(=O)C(Cc1c[nH]c[nH+]1)NC(=O)c1cccc(C[NH+:10](CC[NH3+])[H:20])n1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@@H]1CCC[C@H](C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C([O-])[C@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:10])c1ccccc1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:10][H:20])c1ccccc1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cccc([O:21][H:20])c1O.Cn1cc([NH3+])cc1C(=O)[O-:10]>>Cc1cccc([O-:21])c1O.Cn1cc([NH3+])cc1C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cn2nc(-c3ccccc3)ccc2[n:10]1.c1c[nH+]c([O:21][H:20])cn1>>Cc1cn2nc(-c3ccccc3)ccc2[n+:10]1[H:20].c1c[nH+]c([O-:21])cn1 10=20;20,21=21",
"CC(C)[N:10]1CCCCC1.Nc1nc2nc[n-]c2c([O-])[n+:21]1[H:20]>>CC(C)[N+:10]1([H:20])CCCCC1.Nc1nc2nc[n-]c2c([O-])[n:21]1 10=20;20,21=21",
"C[NH+](C)Cc1ccc([O-:10])cc1.O=[N+]([O-])c1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1>>C[NH+](C)Cc1ccc([O:10][H:20])cc1.O=[N+]([O-])c1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cncnc2[n:10]1.O=C(C[N+:21]1([H:20])CCOCC1)NCc1ccccc1>>COc1cc(S(C)=O)ccc1-c1[nH]c2cncnc2[n+:10]1[H:20].O=C(C[N:21]1CCOCC1)NCc1ccccc1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-:10].CSc1c2ccccc2cc[n+:21]1[H:20]>>CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O:10][H:20].CSc1c2ccccc2cc[n:21]1 10=20;20,21=21",
"C1CN2C(=N1)N1CCN=C1N1CC[N:10]=C21.OB(Cc1ccccc1)[O:21][H:20]>>C1CN2C(=N1)N1CCN=C1N1CC[N+:10]([H:20])=C21.OB(Cc1ccccc1)[O-:21] 10=20;20,21=21",
"O=C(Cc1cccc2ccccc12)[O:21][H:20].O=C([O-])Cc1nnn[n-:10]1>>O=C(Cc1cccc2ccccc12)[O-:21].O=C([O-])Cc1nnn[n:10]1[H:20] 10=20;20,21=21",
"COc1cc(C(=O)[O-:10])cc(OC)c1O.O=C1[N-]C(=O)/C(=N/[O:21][H:20])C(=O)N1>>COc1cc(C(=O)[O:10][H:20])cc(OC)c1O.O=C1[N-]C(=O)/C(=N/[O-:21])C(=O)N1 10=20;20,21=21",
"O=C(c1ccccc1Br)[O-:10].O=C1C[C@H]2OCC=C3C[N+:21]4([H:20])CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64>>O=C(c1ccccc1Br)[O:10][H:20].O=C1C[C@H]2OCC=C3C[N:21]4CC[C@@]56c7ccccc7N1[C@@H]5[C@@H]2[C@@H]3C[C@H]64 10=20;20,21=21",
"CC1CCCC(C(=O)[O:21][H:20])c2nnnn21.CN1CCCC[N:10]1C>>CC1CCCC(C(=O)[O-:21])c2nnnn21.CN1CCCC[N+:10]1(C)[H:20] 10=20;20,21=21",
